US08865726B2
(4S)-3-(3-(2-Fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one (0.186 g, 48%) was prepared by the procedure described in Example 1, Step 9, using a mixture of (4S)-3-(3-(2-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one and (4S)-3-(3-(2-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-5-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one (0.507 g, 0.943 mmol), to produce a yellow solid. LCMS (APCI+) m/z 408.6 [M+H]+; 1H-NMR (400 MHz, DMSO-d6) δ 14.27 (broad s, 1H), 9.16 (d, J=7.8 Hz, 1H), 8.57-8.52 (m, 3H), 7.96-7.85 (m, 3H), 4.97-4.93 (m, 1H), 4.52-4.48 (m, 2H), 2.78-2.71 (m, 1H), 1.05 (d, J=7.1 Hz, 3H), 0.86 (d, J=6.8 Hz, 3H).

reactant | (4S)-3-(3-(2-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one | FC1=C(C=CC(=C1)C1=NN(C=N1)COCC[Si](C)(C)C)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C(C)C)=O | C26H32FN7O3Si
reactant | (4S)-3-(3-(2-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-5-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one | 0.943 mmol, 0.507 g | FC1=C(C=CC(=C1)C1=NC=NN1COCC[Si](C)(C)C)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C(C)C)=O | C26H32FN7O3Si
product | (4S)-3-(3-(2-Fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-isopropyloxazolidin-2-one | 0.186 g, 48% | FC1=C(C=CC(=C1)C1=NNC=N1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C(C)C)=O | C20H18FN7O2
